US08426604B2
4-({5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-piperidine-1-carboxylic acid tert-butyl ester was prepared from 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazol-4-one and tert-butyl 4-(methylamino)piperidine-1-carboxylate following General Procedure B.

reactant | 5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-methylsulfanyl-thiazol-4-one | FC(C1=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)SC)=O)C=CC(=C1)C(F)(F)F)(F)F | C21H13F6N3OS2
reactant | tert-butyl 4-(methylamino)piperidine-1-carboxylate | CNC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
product | 4-({5-[1-(2,4-Bis-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)C=1SC(C(N1)=O)=CC=1C=C2C=NN(C2=CC1)CC1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C31H31F6N5O3S
